US08669271B2
4-[5-(5-Methanesulfonyl-pyridin-2-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
The title compound is prepared from 4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid tert-butyl ester and 2-bromo-5-methanesulfonyl-pyridine following a procedure analogous to that described in Example 1. LC (method 1): tR=1.41 min; Mass spectrum (ESI+): m/z=459 [M+H]+.

reactant | 4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)B2OC(C(O2)(C)C)(C)C | C24H36BNO5
reactant | 2-bromo-5-methanesulfonyl-pyridine | BrC1=NC=C(C=C1)S(=O)(=O)C | C6H6BrNO2S
product | 4-[5-(5-Methanesulfonyl-pyridin-2-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)C2=NC=C(C=C2)S(=O)(=O)C | C24H30N2O5S
